US09227978B2
4-(2-(4,5-Dichloro-2-methoxyphenylamino)acetyl)piperazine-2-carbonitrile
To a mixture of 2-(4,5-dichloro-2-methoxyphenylamino)acetic acid (260 mg, 1.04 mmol), EDCI (273 mg, 1.43 mmol), HOBt (194 mg, 1.43 mmol) and Et3N (288 mg 2.85 mmol) in DCM (10 mL) at 0° C., piperazine-2-carbonitrile was added. The resulting mixture was stirred at RT for 8 h. The mixture was partitioned between dichloromethane and water. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (dichloromethane/methanol=50:1) to afford the desired product (108 mg, 30% yield).

reactant | 2-(4,5-dichloro-2-methoxyphenylamino)acetic acid | 1.04 mmol, 260 mg | ClC1=CC(=C(C=C1Cl)NCC(=O)O)OC | C9H9Cl2NO3
reactant | EDCI | 1.43 mmol, 273 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.43 mmol, 194 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 2.85 mmol, 288 mg | CCN(CC)CC | C6H15N
reactant | piperazine-2-carbonitrile | N1C(CNCC1)C#N | C5H9N3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-(4,5-Dichloro-2-methoxyphenylamino)acetyl)piperazine-2-carbonitrile | 108 mg, 30% yield | ClC1=CC(=C(C=C1Cl)NCC(=O)N1CC(NCC1)C#N)OC | C14H16Cl2N4O2
